US07994185B2
N-{2-Chloro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
A solution of N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide (0.15 g, 0.26 mmol) in 1,4-dioxane (3 mL) with PdCl2(dppf) (0.047 g, 0.064 mmol) was degassed for 5 min. To this mixture was added 2.0 M dimethylzinc in toluene (0.39 mL, 0.77 mmol). The reaction mixture was heated to 80° C. After 2 h, the reaction was quenched slowly with MeOH (15 mL) and then was further diluted with DCM (50 mL), filtered through a nylon membrane and evaporated to a crude yellow residue. The residue was purified by silica gel chromatography eluting 0-100% EtOAC/hexanes, followed by 10% EtOH/EtOAc. The resulting solid was dissolved in DCM (10 mL) and hexanes (20 mL) added to afford the title compound as a yellow solid (0.02 g; 13.1% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.72 (s, 1H), 8.26 (d, J=5.6 Hz, 1H), 7.51-7.60 (m, 2H), 7.40-7.50 (m, 3H), 7.32-7.39 (m, 1H), 6.07 (d, J=5.5 Hz, 1H), 3.71 (t, J=4.8 Hz, 4H), 3.48-3.53 (m, 4H) Note: The 2-Me group is submerged under the water peak at 2.5 ppm. MS (ESI) 564.1 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.26 mmol, 0.15 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H17Cl2F2N5O3S2
reactant | dimethylzinc | 2.0 M | C[Zn]C
reactant | toluene | 0.77 mmol, 0.39 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.064 mmol, 0.047 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{2-Chloro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.02 g, 13.1% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)N1CCOCC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C24H20ClF2N5O3S2
